********************************************************************************
* Author: Vlad Ionescu
* Copyright (C) 2008-2019, Vlad Ionescu, <imbvlad@gmail.com>
*
* This library is free software; you can redistribute it and/or
* modify it under the terms of the GNU Library General Public
* License as published by the Free Software Foundation; either
* version 2 of the License, or (at your option) any later version.
*
* This library is distributed in the hope that it will be useful,
* but WITHOUT ANY WARRANTY; without even the implied warranty of
* MERCHANTABILITY or FITNESS FOR A PARTICULAR PURPOSE.  See the GNU
* Library General Public License for more details.
*
* You should have received a copy of the GNU Library General Public
* License along with this library; if not, write to the
* Free Software Foundation, Inc., 59 Temple Place - Suite 330,
* Boston, MA 02111-1307, USA.
*
********************************************************************************
********************************************************************************
*
* For more info, go to:
*  https://ltspicegoodies.ltwiki.org
* or visit
*  https://ltwiki.org/?title=Filter_Page_and_LTspice_Goodies
* and choose the link for "Filter"
*
********************************************************************************
********************************************************************************
*
* - State-space matrices of the 1st, 2nd and 3rd orders, SISO, with the general
* approach implementation to allow for all the terms to be used, not only the
* particular cases of canonical forms. All of them are made with G-sources and
* capacitors so they will simulate very-fast.
*
*   Vlad, ©2008 - today
*
********************************************************************************
*
*
* [GENERAL]
*
* - They're divided into three because it didn't make much sense to place a 3rd
* order with all the confusing terms when only a 1st order was needed; it would
* have also encumbered the matrix solver with useless elements.
*
*
* [PARAMETERS]
* (respecting the indices of the matrix)
*
* A[1:3,1:3]  = A matrix, 3x3;
* B[1:3,1]    = B vector, 3x1;
* C[1,1:3]    = C vector, 1x3;
* D[1,1]      = D vector, 1x1;
* ic[1:3]     = initial conditions vector.
*
* - Hidden:
*
* Rpar [Ohm]  = LTspice's specific for capacitors, default 1G.
*
*
* [CHARACTERISTICS]
*
* - Depending on the case, not all parameters are needed:
*
*       |       A       |   B   |       C       |   D   | ic
* ------+---------------+-------+---------------+-------+-------
*       |  [x , 0 , 0]  |  [x]  |               |       |  [x]
*  1st  |  [0 , 0 , 0]  |  [0]  |  [x , 0 , 0]  |  [x]  |  [0]
*       |  [0 , 0 , 0]  |  [0]  |               |       |  [0]
* ------+---------------+-------+---------------+-------+-------
*       |  [x , x , 0]  |  [x]  |               |       |  [x]
*  2nd  |  [x , x , 0]  |  [x]  |  [x , x , 0]  |  [x]  |  [x]
*       |  [0 , 0 , 0]  |  [0]  |               |       |  [0]
* ------+---------------+-------+---------------+-------+-------
*       |  [x , x , x]  |  [x]  |               |       |  [x]
*  3rd  |  [x , x , x]  |  [x]  |  [x , x , x]  |  [x]  |  [x]
*       |  [x , x , x]  |  [x]  |               |       |  [x]
* ------+---------------+-------+---------------+-------+-------
*
* where x = used and 0 = unused (safe to ignore). This way, when a first order
* block is needed, there's no need to go through the trouble of nullifying or
* setting all the other terms whenever they're needed.
*
*
* [NOTES]
*
* - All the parameters default to zero to make their modification easier after
* placing the symbol in the schematic.
*
************************
*
* 1st order
*
************************
.subckt 1 IN OUT params:
+ A11=0 B11=0
+ C11=0 D11=0
+ ic1=0
+ Rpar=1g
GA11 0 1 1 0 {A11}
GB11 0 1 in 0 {B11}
GC11 0 out 1 0 {C11}
GD11 0 out in 0 {D11}
C1 1 0 1 ic={ic1} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
Rout out 0 1
.ends 1
************************
*
* 2nd order
*
************************
.subckt 2 IN OUT params:
+ A11=0  A12=0 B11=0
+ A21=0  A22=0 B21=0
+ C11=0  C12=0 D11=0
+ ic1=0 ic2=0
+ Rpar=1g
GA11 0 1 1 0 {A11}
GA12 0 1 2 0 {A12}
GA21 0 2 1 0 {A21}
GA22 0 2 2 0 {A22}
GB11 0 1 in 0 {B11}
GB21 0 2 in 0 {B21}
GC11 0 out 1 0 {C11}
GC12 0 out 2 0 {C12}
GD11 0 out in 0 {D11}
C1 1 0 1 ic={ic1} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
C2 2 0 1 ic={ic2} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
Rout out 0 1
.ends 2
************************
*
* 3rd order
*
************************
.subckt 3 IN OUT params:
+  A11=0 A12=0 A13=0 B11=0
+  A21=0 A22=0 A23=0 B21=0
+  A31=0 A32=0 A33=0 B31=0
+  C11=0 C12=0 C13=0 D11=0
+  ic1=0 ic2=0 ic3=0
+ Rpar=1g
GA11 0 1 1 0 {A11}
GA12 0 1 2 0 {A12}
GA13 0 1 3 0 {A13}
GA21 0 2 1 0 {A21}
GA22 0 2 2 0 {A22}
GA23 0 2 3 0 {A23}
GA31 0 3 1 0 {A31}
GA32 0 3 2 0 {A32}
GA33 0 3 3 0 {A33}
GB11 0 1 in 0 {B11}
GB21 0 2 in 0 {B21}
GB31 0 3 in 0 {B31}
GC11 0 out 1 0 {C11}
GC12 0 out 2 0 {C12}
GC13 0 out 3 0 {C13}
GD11 0 out in 0 {D11}
C1 1 0 1 ic={ic1} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
C2 2 0 1 ic={ic2} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
C3 3 0 1 ic={ic3} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
Rout out 0 1
.ends 3
********************************************************************************
*
************************
*
* 4th order
*
************************
.subckt 4 IN OUT params:
+  A11=0 A12=0 A13=0 A14=0 B11=0
+  A21=0 A22=0 A23=0 A24=0 B21=0
+  A31=0 A32=0 A33=0 A34=0 B31=0
+  A41=0 A42=0 A43=0 A44=0 B41=0
+  C11=0 C12=0 C13=0 C14=0 D11=0
+  ic1=0 ic2=0 ic3=0 ic4=0
+ Rpar=1g
GA11 0 1 1 0 {A11}
GA12 0 1 2 0 {A12}
GA13 0 1 3 0 {A13}
GA14 0 1 4 0 {A14}
GA21 0 2 1 0 {A21}
GA22 0 2 2 0 {A22}
GA23 0 2 3 0 {A23}
GA24 0 2 4 0 {A24}
GA31 0 3 1 0 {A31}
GA32 0 3 2 0 {A32}
GA33 0 3 3 0 {A33}
GA34 0 3 4 0 {A34}
GA41 0 4 1 0 {A41}
GA42 0 4 2 0 {A42}
GA43 0 4 3 0 {A43}
GA44 0 4 4 0 {A44}
GB11 0 1 in 0 {B11}
GB21 0 2 in 0 {B21}
GB31 0 3 in 0 {B31}
GB41 0 4 in 0 {B41}
GC11 0 out 1 0 {C11}
GC12 0 out 2 0 {C12}
GC13 0 out 3 0 {C13}
GC14 0 out 4 0 {C14}
GD11 0 out in 0 {D11}
C1 1 0 1 ic={ic1} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
C2 2 0 1 ic={ic2} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
C3 3 0 1 ic={ic3} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
C4 4 0 1 ic={ic4} Rser=0 Lser=0 Rpar={Rpar} Cpar=0 RLshunt=0
Rout out 0 1
.ends 4
********************************************************************************
*
* [UPDATES]
*
* 2013.02.03	- Minor corrections and rearrangements.
* 2018.12.15  - GPL'd.
*
********************************************************************************
